US05861510
To a solution of (+)-1-(4-methoxybenzenesulfonyl)-4-benzyloxycarbonyl-2-piperazinecarboxylic acid (100 mg, 0.23 mmol) in methylene chloride (5 ml) is added O-t-butylhydroxylamine hydrochloride (35 mg, 0.28 mmol), dimethylaminopyridine (37 mg, 0.30 mmol), and dicyclohexycarbodiimide (57 mg, 0.28 mmol). After stirring overnight, the reaction is diluted with hexanes and the precipitated solid filtered off. The solution is concentrated and the crude product is purified by silica gel chromatography (elution with 2:1 ethyl acetate-hexanes with 1% acetic acid) to provide (+)-N-(t-butyloxy)-1-(4-methoxybenzenesulfonyl)-4-benzyloxycarbonyl-2-piperazinecarboxamide.

reactant | (+)-1-(4-methoxybenzenesulfonyl)-4-benzyloxycarbonyl-2-piperazinecarboxylic acid | 0.23 mmol, 100 mg | COC1=CC=C(C=C1)S(=O)(=O)N1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)O | C20H22N2O7S
reactant | O-t-butylhydroxylamine hydrochloride | 0.28 mmol, 35 mg | Cl.C(C)(C)(C)ON
reactant | dimethylaminopyridine | 0.30 mmol, 37 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (+)-N-(t-butyloxy)-1-(4-methoxybenzenesulfonyl)-4-benzyloxycarbonyl-2-piperazinecarboxamide | C(C)(C)(C)ONC(=O)C1N(CCN(C1)C(=O)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C24H31N3O7S
